### PR TITLE
[Merged by Bors] - feat(Algebra/Category/Grp/LargeColimits): large colimits in the category of commutative additive groups

### PR DESCRIPTION
**Pull request by smorel394**
If `F : J ⥤ AddCommGrp.{w}` is a functor, we show that `F` admits a colimit if and only
if `Colimits.Quot F` (the quotient of the direct sum of the commutative groups `F.obj j`
by the relations given by the morphisms in the diagram) is `w`-small.

- [x] depends on: #20416
- [x] depends on: #20512

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
Instead of "Big", I would suggest "Large", because it matches more the notions of "SmallCategory" and "LargeCategory" that we have.

File: Mathlib/Algebra/Category/Grp/LargeColimits.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+    refine hc.hom_ext (fun j ↦ ?_)
+    ext x
+    change (ofHom (AddEquiv.ulift.symm.toAddMonoidHom.comp χ)) _ =
+      (ofHom (AddEquiv.ulift.symm.toAddMonoidHom.comp ψ)) _
+    dsimp
+    simp only [EmbeddingLike.apply_eq_iff_eq]
+    erw [← Quot.ι_desc _ c j x]
+    change χ.comp (Quot.desc F c).toIntLinearMap.toAddMonoidHom _ = _
+    rw [eq]
+    dsimp
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Grp/LargeColimits.lean:55]: If you add the following lemma in `Algebra.Category.Grp.Basic`:
```lean
lemma ofHom_injective {X Y : Type u} [AddCommGroup X] [AddCommGroup Y] :
    Function.Injective (fun (f : X →+ Y) ↦ ofHom f) := by
  intro f g h
  ext
  apply DFunLike.congr_fun h
```
This becomes:
```suggestion
  · apply (AddMonoidHom.postcompEquiv (@AddEquiv.ulift (AddCircle (1 : ℚ)) _).symm _).injective
    apply ofHom_injective
    refine hc.hom_ext (fun j ↦ ?_)
    ext x
    rw [comp_apply, comp_apply, ← Quot.ι_desc _ c j x]
    exact ULift.down_injective (DFunLike.congr_fun eq (Quot.ι F j x))
```
